US06350747B1
A solution 1.8 g (8.5 mmol) of 1-hydrazono-1,3-dihydropyrrolo[3,2-f]quinolin-2-one in 50 ml of freshly prepared 0.5 M sodium ethoxide solution was stirred at reflux for 3 h. The solution was diluted with 50 ml of water, neutralized with acetic acid, and concentrated on a rotary evaporator until cloudy. The solution was stored in a refrigerator overnight. The solid was filtered off, and the filtrate was extracted with three 80-ml portions of EtOAc. A solution of the solid in MeOH/EtOAc was combined with the extracts and passed through a short pad of silica gel, eluting with EtOAc. The solution was then concentrated to a small volume on a rotary evaporator, and the resulting suspension was diluted with an equal volume of ethanol, sonicated, and filtered to give 3-H-pyrrolo[3,2-f]quinoline-2-one as a light green solid (0.52 g, 33%);

reactant | 1-hydrazono-1,3-dihydropyrrolo[3,2-f]quinolin-2-one | 8.5 mmol, 1.8 g | N(N)=C1C(NC=2C1=C1C=CC=NC1=CC2)=O | C11H8N4O
reactant | sodium ethoxide | 0.5 M | [O-]CC.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 3-H-pyrrolo[3,2-f]quinoline-2-one | 0.52 g, 33% | C1C(NC=2C1=C1C=CC=NC1=CC2)=O | C11H8N2O
